US04677098
A suspension of 40 g of 4,5-dihydro-5-t-butoxycarbonyl-3-isoxazole-propanoic acid methyl ester and 2.0 g of PtO2 /C in 400 ml of methanol is placed under a hydrogen atmosphere with agitation. After H2 absorption is complete, the solution is filtered and the solvent removed under reduced pressure to give an oil. The oil is triturated with anhydrous diethyl ether to yield 4-hydroxy-5-oxo-2-pyrrolidinepropanoic acid t-butyl ester as a white solid with mp 94°-95° C. NMR (CDCl3) and 6.83 (s, 1H), 4.42 (m, 1H), 3.93 (s, 1H), 3.70 (m, 1H), 2.78-1.66 (m, 6H), 1.47 (s, 9H). IR (KBr) 3320, 2980, 1732, 1705, 1456, 1417, 1353, 1368, 1295, 1260, 1214.

reactant | 4,5-dihydro-5-t-butoxycarbonyl-3-isoxazole-propanoic acid methyl ester | 40 g | COC(CCC1=NOC(C1)C(=O)OC(C)(C)C)=O | C12H19NO5
reactant | methanol | 400 ml | CO | CH4O
catalyst | PtO2 | 2.0 g | O=[Pt]=O
product | 4-hydroxy-5-oxo-2-pyrrolidinepropanoic acid t-butyl ester | C(C)(C)(C)OC(CCC1NC(C(C1)O)=O)=O | C11H19NO4
